US07622480B2
A suspension 5.51 g (0.05 mol) of 7-azaindol, 9.6 g (0.056 mol) of 4-oxo-piperidine-1-carboxylic acid ethyl ester and 5 g (0.075 mol) of potassium hydroxide in 120 ml of methanol was heated at 75° C. for 16 hours. The crude mixture was cooled at room temperature and the precipitate formed was filtered off. 7.8 g (57% of yield) of 4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid ethyl ester were obtained.

reactant | 7-azaindol | 0.05 mol, 5.51 g | N1C=CC2=CC=CN=C12 | C7H6N2
reactant | 4-oxo-piperidine-1-carboxylic acid ethyl ester | 0.056 mol, 9.6 g | C(C)OC(=O)N1CCC(CC1)=O | C8H13NO3
reactant | potassium hydroxide | 0.075 mol, 5 g | [OH-].[K+]
solvent | methanol | 120 ml | CO | CH4O
product | 4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid ethyl ester | 7.8 g, 57% | C(C)OC(=O)N1CCC(=CC1)C1=CNC2=NC=CC=C21 | C15H17N3O2
